US04451484
A stirred mixture of ethyl 2-methylbenzoate (30 grams, 0.183 mole) and N-bromosuccinimide (35 grams, 0.194 mole) in carbon tetrachloride (200 ml) was irradiated with an infrared lamp and heated at reflux for 20 minutes. The reaction mixture was allowed to cool to room temperature, then filtered. The filtrate was evaporated under reduced pressure to give ethyl 2-bromomethylbenzoate as a yellow oil.

reactant | ethyl 2-methylbenzoate | 0.183 mole, 30 grams | CC1=C(C(=O)OCC)C=CC=C1 | C10H12O2
reactant | N-bromosuccinimide | 0.194 mole, 35 grams | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | carbon tetrachloride | 200 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | ethyl 2-bromomethylbenzoate | BrCC1=C(C(=O)OCC)C=CC=C1 | C10H11BrO2
